US04810713
4-[3-[4-[Bis(4-methoxyphenyl)methyl]-1-piperidinyl]propoxy]benzoic acid ethyl ester fumarate hydrate [1:1:0.5]
Following the procedure of Example 22, but substituting dimethylformamide at 73° C. for butanol, 4-[bis(4-methoxyphenyl)methyl]piperidine and 4-(3-chloropropoxy)benzoic acid ethyl ester were reacted to give the free base of the title compound which was reacted with fumaric acid, to give the white fumarate salt (recrystallizing from methanoldiethyl ether) in 27% yield, m.p. 147.5°-148.5° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-[bis(4-methoxyphenyl)methyl]piperidine | COC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)OC | C20H25NO2
reactant | 4-(3-chloropropoxy)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)OCCCCl)=O | C12H15ClO3
solvent | butanol | C(CCC)O | C4H10O
product | 4-[3-[4-[Bis(4-methoxyphenyl)methyl]-1-piperidinyl]propoxy]benzoic acid ethyl ester fumarate hydrate | O.C(\C=C\C(=O)O)(=O)O.C(C)OC(C1=CC=C(C=C1)OCCCN1CCC(CC1)C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | InChI=1S/C32H39NO5.C4H4O4.H2O/c1-4-37-32(34)27-10-16-30(17-11-27)38-23-5-20-33-21-18-26(19-22-33)31(24-6-12-28(35-2)13-7-24)25-8-14-29(36-3)15-9-25;5-3(6)1-2-4(7)8;/h6-17,26,31H,4-5,18-23H2,1-3H3;1-2H,(H,5,6)(H,7,8);1H2/b;2-1+;
